US08168794B2
Synthesis of (4R)-4-(benzyloxymethyl)-5-(1-hydroxypropan-2-yl)oxazolidin-2-one
To a solution of (4R)-4-(benzyloxymethyl)-5-(but-3-en-2-yl)oxazolidin-2-one (1.0 equiv.) in 2:1 MeOH/H2O (0.04 M) was added osmium tetroxide 4% in H2O (0.07 equiv) and sodium periodate (3.0 equiv.). After stirring for 3 hours, the white precipitate was filtered and rinsed with EtOAc. The combined filtrate was concentrated in vacuo and the residue was dissolved in EtOAc, washed with NaCl(sat.), dried over MgSO4, filtered and concentrated. The crude aldehyde was dissolved in EtOH (0.08 M) and upon cooling to 0° C., sodium borohydride (2.0 equiv.) was added. After stirring for 15 hours and coming to room temperature the reaction was quenched by addition of H2O. After stirring for 20 minutes, the EtOH was removed in vacuo, EtOAc was added and the solution was washed with 1N HCl, NaHCO3(sat.) and NaCl(sat.), dried over MgSO4, filtered and concentrated yielding after purification by silica gel chromatography (4R)-4-(benzyloxymethyl)-5-(1-hydroxypropan-2-yl)oxazolidin-2-one as a 3:1 mixture of isomers (60%). LCMS (m/z): 266.1 (MH+); LC Rt=2.28 min.

reactant | (4R)-4-(benzyloxymethyl)-5-(but-3-en-2-yl)oxazolidin-2-one | 1.0 equiv. | C(C1=CC=CC=C1)OC[C@H]1NC(OC1C(C)C=C)=O | C15H19NO3
reactant | H2O | 0.07 equiv | O | H2O
reactant | sodium periodate | 3.0 equiv. | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium borohydride | 2.0 equiv. | [BH4-].[Na+]
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | MeOH H2O | 0.04 M | CO.O
product | (4R)-4-(benzyloxymethyl)-5-(1-hydroxypropan-2-yl)oxazolidin-2-one | C(C1=CC=CC=C1)OC[C@H]1NC(OC1C(CO)C)=O | C14H19NO4
